US08859571B2
A mixture of 5-chloro-6,7-bis(methyloxy)-4(1H)-quinazolinone (100 mg, 0.42 mmol, prepared according to J. Med. Chem. (1999) 42 3860) in POCl3 (2 mL) was heated at 80-90° C. for 8 hours before being concentrated. The residue was treated with saturated aqueous NaHCO3 and extracted with EtOAc. The organic extract was dried (Na2SO4) and concentrated to give 4,5-dichloro-6,7-bis(methyloxy)quinazoline (70 mg, 65%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.94 (s, 1 H), 7.56 (s, 1 H), 4.05 (s, 3 H), 3.87 (s, 3 H). MS (m/z) 258.9 (M+H+).

reactant | 5-chloro-6,7-bis(methyloxy)-4(1H)-quinazolinone | 0.42 mmol, 100 mg | ClC1=C2C(N=CNC2=CC(=C1OC)OC)=O | C10H9ClN2O3
reactant | POCl3 | 2 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4,5-dichloro-6,7-bis(methyloxy)quinazoline | 70 mg, 65% | ClC1=NC=NC2=CC(=C(C(=C12)Cl)OC)OC | C10H8Cl2N2O2
